spice
* SPICE Netlist for the given schematic

VCC 4 0 DC <VCC_value>  ; Voltage source VCC, plus at net 4
R1 7 4 <R1_value>       ; Resistor R1 between net 7 and net 4
Q1 8 3 3 NPN            ; NPN transistor Q1, collector at net 8, base at net 3, emitter at net 3
Q2 6 8 2 NPN            ; NPN transistor Q2, collector at net 6, base at net 8, emitter at net 2

* .MODEL NPN NPN(...) ; Define NPN model parameters here
.ends